US08404677B2
Ethyl 4-(3,5-bis(trifluoromethyl)phenylamino)-6-methyl-2-(methylthio) pyrimidine-5-carboxylate
The title compound was prepared as described in Example 1d by starting from ethyl 4-chloro-6-methyl-2-(methyl thio)pyrimidine-5-carboxylate (1.2 g, 4.86 mmol) and 3,5-bis(trifluoromethyl)aniline (777 uL, 4.86 mmol) and continuing until the reaction yielded the brown solids, title compound ethyl 4-(3,5-bis(trifluoromethyl)phenylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (1.53 g, 70.2%). MS m/z: 440.1 (M+1)+.

reactant | ethyl 4-chloro-6-methyl-2-(methyl thio)pyrimidine-5-carboxylate | 4.86 mmol, 1.2 g | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
reactant | 3,5-bis(trifluoromethyl)aniline | 4.86 mmol, 777 uL | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | ethyl 4-(3,5-bis(trifluoromethyl)phenylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 1.53 g, 70.2% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC1=NC(=NC(=C1C(=O)OCC)C)SC)(F)F | C17H15F6N3O2S
